US09290451B2
a) [1-(3-Amino-[1,2,4]oxadiazol-5-yl)-1-methyl-ethyl]-carbamic acid tert-butyl ester
To a colorless solution of N-[(1,1-dimethylethoxy)carbonyl]-2-methyl-alanine (CAN 30992-29-1; 1.0 g, 4.92 mmol) in DMF (24 mL) was added (benzotriazol-1-yloxy)tripyrrolidinophosphonium hexafluorophosphate (3.07 g, 5.9 mmol) and DIEA (1.72 mL, 4.9 mmol), and the resulting pale yellow solution was stirred under argon for 30 minutes at room temperature. This mixture was added dropwise over 40 minutes to a suspension of hydroxyguanidine sulfate monohydrate (3.93 g, 14.8 mmol), DIEA (2.6 mL, 7.4 mmol), and molecular sieves (4 Å, 2 g) in DMF (35 mL) under argon, the temperature not exceeding 25° C. Once addition was complete another 2 g of molecular sieves was added and the reaction mixture (pale yellow suspension) was stirred for 1.5 hours under argon at room temperature then stirred at 130° C. for 20 hours. After cooling to room temperature the mixture was filtered through Celite®. The filtrate was concentrated in vacuo (HV pump) and the residue was stirred vigorously with 2-methoxy-2-methylpropane (40 mL) and 1N NaOH (40 mL) for 20 h. Phases were separated; the aqueous phase was washed with 2-methoxy-2-methylpropane (2×10 mL). Combined organic extracts were washed with water, then dried with Na2SO4, filtered and concentrated in vacuo. The residue was purified by chromatography (silica gel, 50 g, 0% to 100% EtOAc in hexanes) to give the title compound (106 mg, 8.9%), which was used without further purification.

reactant | N-[(1,1-dimethylethoxy)carbonyl]-2-methyl-alanine | 4.92 mmol, 1.0 g | CC(C)(OC(=O)NC(C)(C(=O)O)C)C | C9H17NO4
reactant | (benzotriazol-1-yloxy)tripyrrolidinophosphonium hexafluorophosphate | 5.9 mmol, 3.07 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
reactant | DIEA | 4.9 mmol, 1.72 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | hydroxyguanidine sulfate monohydrate | 14.8 mmol, 3.93 g | O.S(=O)(=O)(O)O.ONC(=N)N
reactant | DIEA | 7.4 mmol, 2.6 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 24 mL | CN(C)C=O | C3H7NO
solvent | DMF | 35 mL | CN(C)C=O | C3H7NO
product | [1-(3-Amino-[1,2,4]oxadiazol-5-yl)-1-methyl-ethyl]-carbamic acid tert-butyl ester | 106 mg, 8.9% | C(C)(C)(C)OC(NC(C)(C)C1=NC(=NO1)N)=O | C10H18N4O3
